* Example Netlist for the “Smart Script”

* Resistor between Node1 and Node2:
R1 1 2 100

* Capacitor between Node2 and Ground:
C1 2 0 1e-6

* Inductor between Node2 and Ground:
L1 2 0 1e-3

* Voltage source from Node4 to Ground:
V1 4 0 10

* Current source from Node5 to Node3:
I1 5 3 0.02

* Voltage-Controlled Current Source:  G1  node_out_p  node_out_m  node_in_p  node_in_m  gm
G1 2 4 1 3 0.1

* Voltage-Controlled Voltage Source:  E1  node_out_p  node_out_m  node_in_p  node_in_m  gain
E1 1 5 2 4 2.0

* Current-Controlled Current Source:  F1  node_out_p  node_out_m  controlling_Vsource_name  gain
F1 3 4 V1 1.5

* Current-Controlled Voltage Source:  H1  node_out_p  node_out_m  controlling_branch_name  transres
H1 2 5 F1 0.5

* Diode between Node3 and Node2 with model "diodeModel"
D1 3 2 diodeModel

* BJT (npn) with collector=4, base=1, emitter=0, model "NPN"
Q1 4 1 0 NPN

* MOSFET with drain=2, gate=5, source=0, model "MOSModel"
M1 2 5 0 MOSModel

* Models:
.model diodeModel D IS=1e-14
.model NPN BJT
.model MOSModel MOS

.end
